US04129556
(N,N'-Bis-(2-hydroxybenzyl)-hexamethylenediamine)
122.1 g of a bisazomethine prepared from 2 mols of salicylaldehyde and 1 mol of hexamethylenediamine and having a melting point of 72°-73° C. are hydrogenated in 550 ml of isopropanol in an autoclave in the presence of 8 g of Raney nickel at 75° C. and under a pressure of 90 atmospheres. The product crystallises out at room temperature and is dissolved by boiling with the addition of a further 650 ml of isopropanol. The catalyst is filtered off, and N,N'-bis-(2-hydroxybenzyl)hexamethylenediamine crystallises out on cooling.

reactant | salicylaldehyde | 2 mols | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | hexamethylenediamine | 1 mol | NCCCCCCN | C6H16N2
solvent | isopropanol | 550 ml | C(C)(C)O | C3H8O
catalyst | Raney nickel | 8 g | [Ni] | Ni
product | N,N'-Bis-(2-hydroxybenzyl)-hexamethylenediamine | OC1=C(CNCCCCCCNCC2=C(C=CC=C2)O)C=CC=C1 | C20H28N2O2
